US08293913B2
tert-butyl 2-(3-(3-(trifluoromethoxy)phenylsulfonyl)quinolin-8-yl)hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate
The title compound was prepared by analogy to the procedure of Example 1.3, except using tert-butyl hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate and 8-iodo-3-(3-(trifluoromethoxy)phenylsulfonyl)quinoline. 130 mg (54%) of the title compound were obtained as a pale yellow solid.

reactant | tert-butyl hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate | C1NCC2CN(CCC21)C(=O)OC(C)(C)C | C12H22N2O2
reactant | 8-iodo-3-(3-(trifluoromethoxy)phenylsulfonyl)quinoline | IC=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC(=CC=C1)OC(F)(F)F | C16H9F3INO3S
product | tert-butyl 2-(3-(3-(trifluoromethoxy)phenylsulfonyl)quinolin-8-yl)hexahydro-1H-pyrrolo[3,4-c]pyridine-5(6H)-carboxylate | 130 mg, 54% | FC(OC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2CN(CCC2C1)C(=O)OC(C)(C)C)(F)F | C28H30F3N3O5S
